US06451810B1
According to the general method of Example 14, 1-(4-arninobutyl)-1H-imidazo[4,5-c]quinolin-4-amine and 4-phenoxybenzoyl chloride were combined to provide N1-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-4-phenoxybenzamide as a white powder, m.p. 90.5-91.5° C. 1H NMR (500 MHz, DMSO-d6) δ8.42 (t, J=5.7 Hz, 1H), 8.21 (s, 1H), 8.03 (d, J=7.9 Hz, 1H), 7.81 (d, J=8.9 Hz, 2H), 7.62 (d, J=7.9 Hz, 1H), 7.45-7.40 (m, 3H), 7.21 (m, 2H), 7.07 (d, J=7.6 Hz, 2H), 6.99 (d, J=8.9 Hz, 2H), 6.61 (broad s, 2H), 4.63 (t, J=7.0 Hz, 2H), 3.25 (m, 2H), 1.92 (m, 2H), 1.58 (m, 2H); MS (EI) m/e 451.2008 (451.2008 calcd for C27H25N5O2).

reactant | 1-(4-arninobutyl)-1H-imidazo[4,5-c]quinolin-4-amine | NCCCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C14H17N5
reactant | 4-phenoxybenzoyl chloride | O(C1=CC=CC=C1)C1=CC=C(C(=O)Cl)C=C1 | C13H9ClO2
product | N1-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-4-phenoxybenzamide | NC1=NC=2C=CC=CC2C2=C1N=CN2CCCCNC(C2=CC=C(C=C2)OC2=CC=CC=C2)=O | C27H25N5O2
